US04261995
A sample of 18.7 g of 3-(3-methoxyphenyl)glutaronitrile prepared according to Preparation A, Part 3, is dissolved in 250 ml of acetone. This solution is stirred in an ice-bath and added are 125 ml of water, 40 ml of 30% hydrogen peroxide and 25 ml of 10% sodium carbonate. The mixture is allowed to stand at room temperature over night and is then concentrated to a volume of about 125 ml. The residue is cooled and the resulting crystalline precipitate is collected, washed with water and dried under vacuum to give 17.4 g of 3-(3-methoxyphenyl)glutaramide, mp 161°-162°.

reactant | 3-(3-methoxyphenyl)glutaronitrile | 18.7 g | COC=1C=C(C=CC1)C(CC#N)CC#N | C12H12N2O
reactant | water | 125 ml | O | H2O
reactant | hydrogen peroxide | 40 ml | OO | H2O2
reactant | sodium carbonate | 25 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 3-(3-methoxyphenyl)glutaramide | 17.4 g | COC=1C=C(C=CC1)C(CC(=O)N)CC(=O)N | C12H16N2O3
